US04447441
A mixture of 2-thiocytosine (0.64 g.), ethyl 4-bromobutyrate (1.07 g.) and 1,5-diazabicyclo[5,4,0]undec-5-ene (0.84 g.) was stirred for 4 hours and then evaporated to dryness. The residue was treated with water and the mixture extracted with EtOAc, and the extract dried and evaporated to dryness to give a gum (1.9 g.). The gum was dissolved in acetonitrile (5 ml.) the solution treated with 2,2,2-trifluoroethyl isothiocyanate (1.1 g.) and the mixture heated at 70° for 72 hours with the addition of further portions of isothiocyanate (0.5 g.) at 24 and 48 hours. The mixture was cooled and the solid which crystallised was collected to give ethyl 4-[4-(3-[2,2,2-trifluoroethyl]thioureido)pyrimid-2-ylthio]butyrate, m.p. 104°-106°.

reactant | 2-thiocytosine | 0.64 g | N1C(=S)N=C(N)C=C1 | C4H5N3S
reactant | ethyl 4-bromobutyrate | 1.07 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | 1,5-diazabicyclo[5,4,0]undec-5-ene | 0.84 g | N12CCCN=CC2CCCC1 | C9H16N2
reactant | 2,2,2-trifluoroethyl isothiocyanate | 1.1 g | FC(CN=C=S)(F)F | C3H2F3NS
reactant | isothiocyanate | 0.5 g | [N-]=C=S
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | ethyl 4-[4-(3-[2,2,2-trifluoroethyl]thioureido)pyrimid-2-ylthio]butyrate | FC(CNC(NC1=NC(=NC=C1)SCCCC(=O)OCC)=S)(F)F | C13H17F3N4O2S2
